US09102621B2
Methyl 6-[(isobutyrylamino)methyl]nicotinate
To an ice-cold suspension of methyl 6-(aminomethyl)nicotinate hydrochloride (1.00 g, 4.18 mmol) and N-ethyl-N-isopropylpropan-2-amine (1.89 g, 2.55 mL, 14.6 mmol) in DCM (10 mL) was added dropwise a solution of isobutyryl chloride (535 mg, 526 μL, 5.02 mmol) in DCM (3 mL). The reaction mixture was allowed to warm to room temperature, washed with water (5 mL), 10% aqueous citric acid solution (5 mL), saturated aqueous sodium bicarbonate solution (5 mL), brine (5 mL), dried over magnesium sulfate, filtered and evaporated to yield the title compound as a pale orange solid (0.988 g, 100%):

reactant | methyl 6-(aminomethyl)nicotinate hydrochloride | 4.18 mmol, 1.00 g | Cl.NCC1=NC=C(C(=O)OC)C=C1
reactant | N-ethyl-N-isopropylpropan-2-amine | 14.6 mmol, 2.55 mL, 1.89 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isobutyryl chloride | 5.02 mmol, 526 μL, 535 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Methyl 6-[(isobutyrylamino)methyl]nicotinate | 0.988 g, 100% | C(C(C)C)(=O)NCC1=NC=C(C(=O)OC)C=C1 | C12H16N2O3
